US08242175B2
A mixture of 1-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-ethanone hydrochloride (prepared as described in Preparation 2, 426 mg, 1.59 mmol), 4-formylcinnamic acid (280 mg, 1.59 mmol) and 1.7 M KOH (2.8 ml) in EtOH (7 ml) was stirred at room temperature overnight. The mixture was acidified with 10% HCl and the resulting precipitate was filtered off to give 388 mg of (E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride.

reactant | 1-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-ethanone hydrochloride | 1.59 mmol, 426 mg | Cl.CN1CCC(CC1)CC1=CC=C(C=C1)C(C)=O
reactant | 4-formylcinnamic acid | 1.59 mmol, 280 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | KOH | 1.7 M, 2.8 ml | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 7 ml | CCO | C2H6O
product | (E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride | 388 mg | Cl.CN1CCC(CC1)CC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | InChI=1S/C25H27NO3.ClH/c1-26-16-14-22(15-17-26)18-21-6-10-23(11-7-21)24(27)12-8-19-2-4-20(5-3-19)9-13-25(28)29;/h2-13,22H,14-18H2,1H3,(H,28,29);1H/b12-8+,13-9+;
